US08293903B2
Step 11. 1,5-Anhydro-2,3-dideoxy-3-{[(1R,3S)-3-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylcarbonyl]-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol dihydrochloride
To 902 mg (1.827 mmol) of 1,5-anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol was added 10 mL of 4M HCl in dioxane, and a few drops of methanol sufficient to give a clear solution. The solution was stirred at ambient temperature for 45 minutes, then concentrated under reduced pressure to give 973 mg of the intermediate salt as a foam. 1H NMR (400 MHz, MeOD) δ ppm 1.57-1.70 (m, 1 H) 1.73-1.93 (m, 4H) 1.93-2.10 (m, 4H) 2.14-2.28 (m, 2H) 2.29-2.44 (m, 3H) 2.46-2.59 (m, 2H) 3.35-3.77 (m, 12H) 3.98 (dd, J=11.6, 4.4 Hz, 1H) 4.26 (d, J=13.3 Hz, 1H) 4.45 (s, 1H) 5.21 (br. s., 1H). LC-MS ES+ 394.2.

reactant | 1,5-anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol | 1.827 mmol, 902 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)C2(CCC2)O | C26H43N3O6
reactant | HCl | 4M, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | methanol | a few drops | CO | CH4O
product | 1,5-Anhydro-2,3-dideoxy-3-{[(1R,3S)-3-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylcarbonyl]-3-(1-hydroxycyclobutyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol dihydrochloride | 973 mg | Cl.Cl.[C@@H]12N(C[C@@H](NC1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)C2(CCC2)O | InChI=1S/C21H35N3O4.2ClH/c1-27-18-13-28-8-4-17(18)23-14-3-7-20(10-14,21(26)5-2-6-21)19(25)24-12-15-9-16(24)11-22-15;;/h14-18,22-23,26H,2-13H2,1H3;2*1H/t14-,15+,16+,17+,18-,20-;;/m1../s1
